US09428498B2
Methyl 6-(cyclopropylcarbamoyl)pyridine-3-carboxylate
5-(Methoxycarbonyl)pyridine-2-carboxylic acid (1.50 g, 8.28 mmol) was dissolved in DMF (25 mL) and cyclopropylamine (689 uL, 9.94 mmol), Et3N (4.66 mL, 33.1 mmol) and HBTU (3.30 g, 8.69 mmol) were added. The reaction mixture was stirred for 3d and concentrated in vacuo. The residue was dissolved in EtOAc (100 mL), washed with sat aq Na2CO3 (100 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography to give the title compound (774 mg, 42.4%) as a white solid. LCMS (ES+): 221.2 [MH]+.

reactant | 5-(Methoxycarbonyl)pyridine-2-carboxylic acid | 8.28 mmol, 1.50 g | COC(=O)C=1C=CC(=NC1)C(=O)O | C8H7NO4
reactant | cyclopropylamine | 9.94 mmol, 689 uL | C1(CC1)N | C3H7N
reactant | Et3N | 33.1 mmol, 4.66 mL | CCN(CC)CC | C6H15N
reactant | HBTU | 8.69 mmol, 3.30 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Methyl 6-(cyclopropylcarbamoyl)pyridine-3-carboxylate | 774 mg, 42.4% | C1(CC1)NC(=O)C1=CC=C(C=N1)C(=O)OC | C11H12N2O3
